US05532267
6-Amidino-2-naphthyl 5-[4-(2-carboxyvinyl)benzoylaminomethyl]furan-2-carboxylate hydrochloride
In 80 ml of acetic acid was dissolved 4 g of 6-amidino-2-naphthyl 5-[4-(2-t-butoxycarbonylvinyl)benzoylaminomethyl]furan-2-carboxylate hydrochloride. Then, hydrogen chloride gas was bubbled into the resulting solution for 1 hour while stirring and cooling with water. The precipitate was collected by filtration and washed with 120 ml of acetone to obtain 2.8 g of the intended product.

reactant | 6-amidino-2-naphthyl 5-[4-(2-t-butoxycarbonylvinyl)benzoylaminomethyl]furan-2-carboxylate hydrochloride | 4 g | Cl.C(C)(C)(C)OC(=O)C=CC1=CC=C(C(=O)NCC2=CC=C(O2)C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 6-Amidino-2-naphthyl 5-[4-(2-carboxyvinyl)benzoylaminomethyl]furan-2-carboxylate hydrochloride | 2.8 g | Cl.C(=O)(O)C=CC1=CC=C(C(=O)NCC2=CC=C(O2)C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=C1 | InChI=1S/C27H21N3O6.ClH/c28-25(29)20-7-6-19-14-21(9-8-18(19)13-20)36-27(34)23-11-10-22(35-23)15-30-26(33)17-4-1-16(2-5-17)3-12-24(31)32;/h1-14H,15H2,(H3,28,29)(H,30,33)(H,31,32);1H
